US03947416
In addition to being useful as discussed above, acid anhydrides produced by the method of the invention are useful as intermediates for the production of pyrimidine diones which can be used as herbicides. For example, 3-azaisatoic anhydride can be dissolved in dimethylformamide and reacted with a substantially stoiciometric amount of isopropyl amine to produce 2-amino-N-isopropylnicotinamide. The reaction is conveniently conducted at a temperature of about 45°-50° until carbon dioxide evolution ceases. The 2-amino-N-isopropylnicotinamide can then be reacted with phosgene to produce 3-isopropyl pyrido[2,3-d]pyrimidine-2,4 (1H,3H)-dione. This reaction can be conducted under ambient pressure in p-dioxane as a solvent, preferably in the presence of triethylamine as an HCl absorber, at a temperature in the vicinity of 100°.

reactant | carbon dioxide | C(=O)=O | CO2
reactant | 2-amino-N-isopropylnicotinamide | NC1=C(C(=O)NC(C)C)C=CC=N1 | C9H13N3O
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
product | 3-isopropyl pyrido[2,3-d]pyrimidine-2,4 (1H,3H)-dione | C(C)(C)N1C(NC2=C(C1=O)C=CC=N2)=O | C10H11N3O2
